US06172228B2
N-Cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide (1.00 g, 2.04 mmol) prepared in the same manner as in Example 1 was dissolved in methanol (10 ml). A 15% HCl-methanol solution was added thereto to make the solution acidic, and the solvent was then removed by evaporation in vacuo. Acetone was added to the residue, and the precipitated crystals were collected by filtration. The crystals were recrystallized from ethanol, to give N-cyclopropyl-6-[-4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrochloride (0.87 g) as colorless prisms (yield based on N-cyclopropyl-6-[-4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide: 75.7%).

reactant | N-Cyclopropyl-6-[4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide | 2.04 mmol, 1.00 g | C1(CC1)NS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | C26H36ClN3O2S
reactant | HCl methanol | Cl.CO
solvent | methanol | 10 ml | CO | CH4O
product | N-cyclopropyl-6-[-4-[(3-chlorophenyl)phenylmethyl]-1-piperazinyl]hexanesulfonamide dihydrochloride | 0.87 g | Cl.Cl.C1(CC1)NS(=O)(=O)CCCCCCN1CCN(CC1)C(C1=CC=CC=C1)C1=CC(=CC=C1)Cl | InChI=1S/C26H36ClN3O2S.2ClH/c27-24-12-8-11-23(21-24)26(22-9-4-3-5-10-22)30-18-16-29(17-19-30)15-6-1-2-7-20-33(31,32)28-25-13-14-25;;/h3-5,8-12,21,25-26,28H,1-2,6-7,13-20H2;2*1H
